US05834499
In 2 ml of methyl iodide, 30 mg of 2-(1-methyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole was dissolved, followed by stirring at room temperature for 18 hours. The solvent was evaporated under reduced pressure. The resulting oily substance was crystallized from diethyl ether-chloroform-methanol, whereby 43 mg of 1,1-dimethyl-3-(8H-indeno[1,2-d]thiazol-2-yl)pyrrolidinium iodide was obtained.

reactant | 2-(1-methyl-3-pyrrolidinyl)-8H-indeno[1,2-d]thiazole | 30 mg | CN1CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2 | C15H16N2S
reactant | methyl iodide | 2 ml | CI | CH3I
product | 1,1-dimethyl-3-(8H-indeno[1,2-d]thiazol-2-yl)pyrrolidinium iodide | 43 mg | [I-].C[N+]1(CC(CC1)C=1SC2=C(N1)C=1C=CC=CC1C2)C | InChI=1S/C16H19N2S.HI/c1-18(2)8-7-12(10-18)16-17-15-13-6-4-3-5-11(13)9-14(15)19-16;/h3-6,12H,7-10H2,1-2H3;1H/q+1;/p-1
